US07514451B2
Using ethyl 6,7-difluoro-1,4-dihydro-1-(1,1-dimethylethyl)-4-oxo-3-quinolinecarboxylate (309 mg) and (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine (174 mg), the same procedure was followed as in Example 40 to give 7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-1-(1,1-dimethylethyl)-4-oxo-3-quinolinecarboxylic acid as pale yellow crystals (91.3 mg).

reactant | ethyl 6,7-difluoro-1,4-dihydro-1-(1,1-dimethylethyl)-4-oxo-3-quinolinecarboxylate | 309 mg | FC=1C=C2C(C(=CN(C2=CC1F)C(C)(C)C)C(=O)OCC)=O | C16H17F2NO3
reactant | (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine | 174 mg | C1(CC1)NC[C@H]1CNC[C@H]1F | C8H15FN2
product | 7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-1-(1,1-dimethylethyl)-4-oxo-3-quinolinecarboxylic acid | 91.3 mg | C1(CC1)NC[C@H]1CN(C[C@H]1F)C1=C(C=C2C(C(=CN(C2=C1)C(C)(C)C)C(=O)O)=O)F | C22H27F2N3O3
